US04080330
A mixture comprising 4.0 g of 3-phenylindoline, 40 ml of benzene, 5 ml of triethylamine and 4.0 g of acryloylchloride was stirred at 10°-15° C for 15 minutes. The mixture was then washed with water, the benzene solution dried and the solvent removed. 4.1 G of resin which was crystallized from ether to give 2.3 g of the desired N-acryloyl-3-phenylindoline which was found to have a melting point of 77°-8° C.

reactant | 3-phenylindoline | 4.0 g | C1(=CC=CC=C1)C1CNC2=CC=CC=C12 | C14H13N
reactant | benzene | 40 ml | C1=CC=CC=C1 | C6H6
reactant | acryloylchloride | 4.0 g | C(C=C)(=O)Cl | C3H3ClO
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | N-acryloyl-3-phenylindoline | 2.3 g | C(C=C)(=O)N1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C17H15NO
